US05374606
A solution of sodium nitrite (13 g) in concentrated sulphuric acid was added during 0.5 hours to a solution of ethyl 3-amino-4-chloro-2-methylbenzoate (22.4 g) in acetic acid, keeping the temperature below 15° C. After stirring for a further 1 hour at 5° C., the resulting diazonium mixture was added during 0.75 hours to a solution of copper (I) bromide (31 g) in hydrobromic acid (45%, 103 ml) and water. Heating to 40° C. was continued for a further 2 hours before addition of water and extraction (ethyl acetate). The extract was washed (sodium hydroxide solution), dried (magnesium sulphate) and evaporated to give ethyl 3-bromo-4-chloro-2-methylbenzoate (22.2 g) as a brown oil, NMR (CDCl3) 1.3 (t,3H), 2.65 (s,3H), 4.3 (q,2H), 7.45 (m,2H).

reactant | sodium nitrite | 13 g | N(=O)[O-].[Na+]
reactant | ethyl 3-amino-4-chloro-2-methylbenzoate | 22.4 g | NC=1C(=C(C(=O)OCC)C=CC1Cl)C | C10H12ClNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrobromic acid | 103 ml | Br | BrH
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | copper (I) bromide | 31 g | [Cu]Br
product | ethyl 3-bromo-4-chloro-2-methylbenzoate | 22.2 g | BrC=1C(=C(C(=O)OCC)C=CC1Cl)C | C10H10BrClO2
